US07368578B2
To a solution of 3-({4-[(2-phenyl-5-methyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1-phenyl-1H-pyrazole-4-carbaldehyde (0.50 g) in tetrahydrofuran (5 mL)-ethanol (10 mL) was gradually added sodium borohydride (0.040 g) at 0° C. After stirring the reaction mixture at room temperature for 1 hr, water was added, and the precipitated crystals were collected by filtration to give [3-({4-[(2-phenyl-5-methyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1-phenyl-1H-pyrazol-4-yl]methanol as colorless crystals (0.50 g, yield 98%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 118-119° C.

reactant | 3-({4-[(2-phenyl-5-methyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.50 g | C1(=CC=CC=C1)C=1OC(=C(N1)COC1=CC=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)C | C28H23N3O4
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.040 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | [3-({4-[(2-phenyl-5-methyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1-phenyl-1H-pyrazol-4-yl]methanol | 0.50 g, yield 98% | C1(=CC=CC=C1)C=1OC(=C(N1)COC1=CC=C(COC2=NN(C=C2CO)C2=CC=CC=C2)C=C1)C | C28H25N3O4
